US08809352B2
4′-Chloro-biphenyl-2-carbaldehyde (5.00 g, 23.08 mmol) and 1,4-dioxa-8-azaspiro[4.5]decane (4.30 g, 30.0 mmol) were combined in DCE (90 mL) and methanol (68 mL). MgSO4 (˜5 g) was added, and the resulting mixture was stirred for 1 hour at room temperature. Sodium triacetoxyborohydride (14.67 g, 69.2 mmol) was then added, and the reaction was stirred for 16 hours at room temperature. The solvent was removed in vacuo, and the residue was resuspended in CH2Cl2/H2O. The layers were separated, and the aqueous layer was extracted with CH2Cl2 (2×100 mL). The organic layers were combined, dried over MgSO4, and concentrated. Flash chromatography on silica gel (0-10% NH3 in methanol (˜2M)/CH2Cl2) afforded 8-((4′-chlorobiphenyl-2-yl)methyl)-1,4-dioxa-8-azaspiro[4.5]decane as a brown oil (4.73 g, 60% yield). MS (ESI) m/e (M+H)+: 344.5

reactant | 4′-Chloro-biphenyl-2-carbaldehyde | 23.08 mmol, 5.00 g | ClC1=CC=C(C=C1)C=1C(=CC=CC1)C=O | C13H9ClO
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 30.0 mmol, 4.30 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | MgSO4 | ˜5 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | Sodium triacetoxyborohydride | 69.2 mmol, 14.67 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 90 mL | ClCCCl | C2H4Cl2
solvent | methanol | 68 mL | CO | CH4O
product | 8-((4′-chlorobiphenyl-2-yl)methyl)-1,4-dioxa-8-azaspiro[4.5]decane | 4.73 g, 60% yield | ClC1=CC=C(C=C1)C1=C(C=CC=C1)CN1CCC2(OCCO2)CC1 | C20H22ClNO2
